US05098701
A solution of 3-(3-pyridyl)propan-1-ol (75 g) and methacrylic anhydride (177 g) in t-butyl methyl ether (750 ml) was allowed to stand at room temperature for 72 hours. The solution was then poured into water and the organic phase washed with aqueous saturated Na2CO3 solution (5×200 ml), and 10% aqueous sodium hydroxide solution (8×200 ml). The organic solution was then dried over sodium sulphate and evaporated to dryness under reduced pressure to give 3-(3-pyridyl)prop-1-yl methacrylate (65 g) as an oil.

reactant | 3-(3-pyridyl)propan-1-ol | 75 g | N1=CC(=CC=C1)CCCO | C8H11NO
reactant | methacrylic anhydride | 177 g | C(C(=C)C)(=O)OC(C(=C)C)=O | C8H10O3
reactant | water | O | H2O
solvent | t-butyl methyl ether | 750 ml | COC(C)(C)C | C5H12O
product | 3-(3-pyridyl)prop-1-yl methacrylate | 65 g | C(C(=C)C)(=O)OCCCC=1C=NC=CC1 | C12H15NO2
